US08048899B2
To a suspension of 2.91 g (8.53 mmol) of 2-(1-methanesulfonyl-piperidine-4-sulfonyl)-2-methyl-propionic acid ethyl ester in THF/water (1/1, 60 mL) are added 2.56 g (34.13 mmol) of lithium hydroxide monohydrate. The reaction is stirred at room temperature for 3 d and then concentrated under reduced pressure. The residue is partitioned between brine (20 mL) and DCM (20 mL). The aqueous layer is further acidified with 2M aqueous HCl solution to pH 1 and extracted with DCM. The combined organic extracts are concentrated under reduced pressure to afford 1.68 g of 2-(1-methanesulfonyl-piperidine-4-sulfonyl)-2-methyl-propionic acid. Yield 63%, ES-MS: 314 [M+H]; 1H NMR (500 MHz, MeOD) δ ppm 1.66 (6H, s), 1.86-1.97 (2H, m), 2.24 (2H, dd, J=13.64, 2.54 Hz), 2.87 (3H, s), 2.92 (2H, td, J=12.00, 2.59 Hz), 3.81 (2H, dt, J=12.45, 3.13 Hz), 3.94 (1H, tt, J=11.41, 3.79 Hz)

reactant | 2-(1-methanesulfonyl-piperidine-4-sulfonyl)-2-methyl-propionic acid ethyl ester | 8.53 mmol, 2.91 g | C(C)OC(C(C)(C)S(=O)(=O)C1CCN(CC1)S(=O)(=O)C)=O | C12H23NO6S2
reactant | lithium hydroxide monohydrate | 34.13 mmol, 2.56 g | O.[OH-].[Li+]
solvent | 1,4-dioxane water | 60 mL | O1CCOCC1.O
product | 2-(1-methanesulfonyl-piperidine-4-sulfonyl)-2-methyl-propionic acid | 1.68 g, Yield 63% | CS(=O)(=O)N1CCC(CC1)S(=O)(=O)C(C(=O)O)(C)C | C10H19NO6S2
